US04034090
The sodium salt of 3-acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (12 g.) is dissolved in water (22 cc.). Potassium thiocyanate (29 g.), sodium bicarbonate (2.45 g.) and 1-tert-butyl-5-thioxo-1,2,3,4-tetrazoline (4.6 g.) are added to this solution and the mixture is heated to 60° C. for 6 hours. After cooling, the reaction mixture is diluted with water (150 cc.) and washed with ethyl acetate (200 cc.) after having been acidified to pH 5.5 by adding 4 N hydrochloric acid. The mixture is then acidified to pH 1.5 by adding 4 N hydrochloric acid in the presence of ethyl acetate (350 cc.). After decanting the organic phase, the aqueous phase is extracted twice with ethyl acetate (a total of 150 cc.). The organic extracts are combined, washed twice with water (a total of 300 cc.), dried over sodium sulphate, treated with decolourising charcoal, filtered and then concentrated to dryness under reduced pressure (20 mm Hg). The residue obtained is dissolved in tetrahydrofuran (60 cc.) and this solution is then poured into isopropyl ether (600 cc.). A product precipitates, which is isolated by filtration and dried under reduced pressure (0.1 mm Hg) to give 2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-3-[(1-tert-butyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (4.5 g.).

reactant | sodium | [Na] | Na
reactant | 3-acetoxymethyl-2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 12 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC=1SC(SC1)=O)=O)=O)C(=O)O | C15H14N2O7S3
reactant | Potassium thiocyanate | 29 g | [S-]C#N.[K+]
reactant | sodium bicarbonate | 2.45 g | C([O-])(O)=O.[Na+]
reactant | 1-tert-butyl-5-thioxo-1,2,3,4-tetrazoline | 4.6 g | C(C)(C)(C)N1N=NNC1=S | C5H10N4S
reactant | isopropyl ether | 600 cc | C(C)(C)OC(C)C | C6H14O
solvent | water | 22 cc | O | H2O
solvent | water | 150 cc | O | H2O
solvent | tetrahydrofuran | 60 cc | O1CCCC1 | C4H8O
product | 2-carboxy-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-3-[(1-tert-butyl-1,2,3,4-tetrazol-5-yl)-thiomethyl]-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 4.5 g | C(=O)(O)C=1N2C(C(C2SCC1CSC1=NN=NN1C(C)(C)C)NC(CC=1SC(SC1)=O)=O)=O | C18H20N6O5S4
